US08003653B2
(2S,3R,4S)-2-amino-4-[(tert-butoxycarbonyl)amino]-3 -hydroxy-N-(1-methylbutyl)-5-phenylpentanamide
To a solution of (2S,3S,4S)-2-azido-4-[(tert-butoxycarbonyl)amino]-3-hydroxy-N-(1-methylbutyl)-5-phenylpentanamide (55 mg, 0.131 mmol) in MeOH (4 mL) which had been degassed and purged with nitrogen was added a small amount of 10% Pd on carbon. The mixture was flushed again with nitrogen and stirred overnight under a balloon atmosphere of hydrogen. The reaction was filtered and the resulting filtrate concentrated in vacuo to afford the product as a yellow solid. 1H NMR (400 MHz, CD3OD) δ 7.25-7.23 (m, 4H), 7.17-7.15 (m, 1H), 3.91-3.86 (m, 2H), 3.66-3.59 (m, 1H), 3.32-3.30 (m, 1H), 3.21-3.17 (m, 1H), 2.59-2.52 (m, 1H), 1.52-1.33 (m, 4H), 1.29 (s, 9H), 1.26-1.12 (m, 3H), 0.95-0.91 (m, 3H); ES MS (M+1)=394.

reactant | (2S,3S,4S)-2-azido-4-[(tert-butoxycarbonyl)amino]-3-hydroxy-N-(1-methylbutyl)-5-phenylpentanamide | 0.131 mmol, 55 mg | N(=[N+]=[N-])[C@H](C(=O)NC(CCC)C)[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O | C21H33N5O4
solvent | MeOH | 4 mL | CO | CH4O
product | (2S,3R,4S)-2-amino-4-[(tert-butoxycarbonyl)amino]-3 -hydroxy-N-(1-methylbutyl)-5-phenylpentanamide | N[C@H](C(=O)NC(CCC)C)[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O | C21H35N3O4
